* C:\Users\jose\Desktop\ISPR_Tutoriales\Simulaciones\WorstCases.asc
XU1 N006 E1 3.3 0 E1 ADA4661-2
XU2 N008 E2 3.3 0 E2 ADA4661-2
R1 N001 AMP {mc(6.2k,tolr)} tol=1
R2 N006 N001 {mc(180k,tolr)} tol=1
R3 N002 E1 {mc(27k,tolr)} tol=1
R4 N008 N002 {mc(27k,tolr)} tol=1
C1 E1 N001 {mc(1n,tolc)}
C2 E2 N002 {mc(1n,tolc)}
C3 0 N008 {mc(82p,tolc)}
C4 0 N006 {mc(100p,tolc)}
V1 N003 0 SINE(0.7 0.0003 440) AC 1
V2 3.3 0 3.3
C5 N004 N003 {mc(3u,tolc)}
R5 N004 0 {wc(1.8k,tols,1)}
XU4 N004 N005 3.3 0 HP ADA4661-2
R6 3.3 N004 {wc(110k,tols,0)}
R11 N005 HP {wc(62k,tols,2)}
R12 N005 0 {wc(2k,tols,3)}
XU3 HP N007 3.3 0 AMP ADA4661-2
R9 N007 N009 {mc(pot_g_b,0)}
R10 AMP N007 {mc(200k,tolr)}
R7 N009 0 {mc(820,tolr)}
R8 3.3 N009 {mc(pot_offset_b,0)}
.tran 0 0.01 0 0.001
* .noise V(E2) V1 dec 100 20 40k
;ac dec 100 10 1000000
;step param pot_g_b 3000 5000 200
.param pot_g_b=4000
.param pot_offset_b=734
;step param pot_offset_b 390 490 20
.func wc(nom,tol,index) if(run==numruns,nom,if(binary(run,index),nom*(1+tol),nom*(1-tol)))
.func binary(run,index) floor(run/(2**index))-2*floor(run/(2**(index+1)))
.param numruns=16
.step param run 1 16 1
.param tolc=0.01 tolr=0.01 tols=0.01
;param tolc=0 tolr=0 tols=0
.meas VoutAvg avg V(HP)
.lib ADI1.lib
.backanno
.end
